US09023858B2
2-(ethylamino)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
Ethylamine tetrahydrofuran solution (2M, 2 ml) was diluted with tetrahydrofuran (2 ml), 2-(methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (100 mg) was added thereto at room temperature, and the mixture was stirred at room temperature for 10 min. The pH of the reaction mixture was adjusted to about 7 with 0.5M hydrochloric acid (about 4 ml), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained white residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (52 mg) as a white solid.

reactant | Ethylamine tetrahydrofuran | 2M, 2 ml | O1CCCC1.C(C)N
reactant | 2-(methylsulfinyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 100 mg | CS(=O)C=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O4S
reactant | hydrochloric acid | 0.5M, about 4 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(ethylamino)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 52 mg | C(C)NC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H15F3N4O3
